US03951967
A mixture of 2-sulfamoyl-4-isopropylthio-5-chloroaniline (0.02 mole) and chloroacetyl chloride (0.022 mole) in dioxane (75 ml.) is heated under reflux for 24 hours. The solution then is concentrated to dryness in vacuo, the residue dissolved in ethanol (60 ml.) and heated under reflux with potassium acetate (0.022 mole) and water (10 ml.) for 2 hours. The alcohol is removed in vacuo and the solution then acidified with hydrochloric acid. The precipitated product is recrystallized from a mixture of methanol and water to provide 3-chloromethyl-6-chloro-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide, m.p. 248°-250° C.

reactant | 2-sulfamoyl-4-isopropylthio-5-chloroaniline | 0.02 mole | S(N)(=O)(=O)C1=C(N)C=C(C(=C1)SC(C)C)Cl | C9H13ClN2O2S2
reactant | chloroacetyl chloride | 0.022 mole | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium acetate | 0.022 mole | C(C)(=O)[O-].[K+]
reactant | water | 10 ml | O | H2O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 3-chloromethyl-6-chloro-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide | ClCC=1NS(C2=C(N1)C=C(C(=C2)SC(C)C)Cl)(=O)=O | C11H12Cl2N2O2S2
